US04668697
Step A: Preparation of 5-(2-Benzyloxyethyl)benzo[b]thiophene
To a solution of NaH (60% oil dispersion, 2.4 g, 0.06 mol) in DMF (50 ml) heated at 60° C. with stirring under N2 was added dropwise a solution of 5-(2-hydroxyethyl)benzo[b]thiophene (8.9 g, 0.05 mol) in DMF (50 ml). After 1/2 hour, a solution of benzyl bromide (10.3 g, 7.2 ml, d=1.438, 0.06 mol) in DMF (50 ml) was added dropwise. After 15 hours, the solution was poured into H2O and the aqueous phase extracted with ethyl acetate (3X). The organic layers were backwashed with H2O, saturated NaCl, dried, filtered and concentrated to dryness. The residue was chromatographed on silica gel and the product was eluted with 10% (V/V) ethyl acetatehexane to yield 9.7 g (72%) of product. The material was used directly in the next step without further purification.

reactant | NaH | 0.06 mol, 2.4 g | [H-].[Na+]
reactant | 5-(2-hydroxyethyl)benzo[b]thiophene | 0.05 mol, 8.9 g | OCCC1=CC2=C(SC=C2)C=C1 | C10H10OS
reactant | benzyl bromide | 0.06 mol, 7.2 ml, 10.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(2-Benzyloxyethyl)benzo[b]thiophene | 9.7 g, 72% | C(C1=CC=CC=C1)OCCC1=CC2=C(SC=C2)C=C1 | C17H16OS
